US05310735
16(b1) (2S,4R)-4-Methanesulfonyloxy-2-{4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
89 μl of triethylamine and 50 μl of methanesulfonyl chloride were added to a solution of 321 mg of (2S,4R)-4-hydroxy-2-{4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine in 3.2 ml of anhydrous tetrahydrofuran, whilst ice-cooling, and the resulting mixture was stirred at 0° to 5° C. for 30 minutes and then at room temperature for 1 hour. The reaction mixture was then concentrated by evaporation under reduced pressure, and the residue was mixed with an aqueous solution of sodium hydrogencarbonate and then extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate; the solvent was then removed by distillation under reduced pressure, to afford 345 mg of the title compound as a powder.

reactant | triethylamine | 89 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 50 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2S,4R)-4-hydroxy-2-{4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 321 mg | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)CCOC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H31N5O11
solvent | tetrahydrofuran | 3.2 ml | O1CCCC1 | C4H8O
product | (2S,4R)-4-Methanesulfonyloxy-2-{4-[2-(4-nitrobenzyloxycarbonyl)oxyethyl]-1-piperazinylcarbonyl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 345 mg | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)CCOC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C28H33N5O13S
